### PR TITLE
Determinant and Adjugate Matrix

### PR DESCRIPTION
**Pull request by FranziskusWiesnet**
In the four new files, the determinant of a matrix over a commutative ring is introduced through Laplace expansion, and it is proven that the adjugate matrix multiplied by the matrix itself equals the determinant times the identity matrix.
Additionally, it is shown that the determinant is independent of the row or column chosen for expansion, along with a few other minor properties of the determinant.
I am happy to consider any improvements.

### CODE REVIEW

File: dist-newstyle/cache/compiler
Comment (felixwellen) [inline dist-newstyle/cache/compiler:1]: This looks like accidentally committed files

**Comment by felixwellen** [comment]
Thanks for opening a PR on this! Determinants would certainly be very useful to have.

File: Cubical/Algebra/Determinat/Minor.agda [hunk 1]
```diff
@@ -0,0 +1,194 @@
+{-# OPTIONS --cubical #-}
+
+module Minor where
```
Comment (felixwellen) [inline Cubical/Algebra/Determinat/Minor.agda:3]: Module names should always be fully qualified, i.e. ```Cubical.Algebra.Determinant.Minor``` in this case.

File: dist-newstyle/cache/compiler
Comment (FranziskusWiesnet) [reply dist-newstyle/cache/compiler:1]: Yes. I have removed it.

File: Cubical/Algebra/Determinat/Base.agda [hunk 2]
```diff
@@ -0,0 +1,2500 @@
...
+module Determinat (ℓ : Level) (P' : CommRing ℓ) where
+
+  open Cubical.Algebra.Determinat.Minor.Minor ℓ
+  open Cubical.Algebra.Determinat.RingSum.RingSum ℓ P'
+  open RingStr (snd (CommRing→Ring P')) renaming ( is-set to isSetR )
+
+  CommRingR' : CommRingStr (R' .fst)
+  CommRingR' =  commringstr 0r 1r _+_ _·_ -_ (CommRingStr.isCommRing (snd P'))
+
+  -- Definition of the minor factor
```
Comment (anshwad10) [inline Cubical/Algebra/Determinat/Base.agda:41]: I noticed that there is some redundancy in the Determinat (is that a typo?) .Base file. `MF i` is just `(- 1r) ^ i` (`_^_` is defined in Cubical.Algebra.CommRing.Properties, and many of the properties of minor factor you prove are already proved there). And `+Compat` can by proved more simply by `cong₂ _+_`.

**Comment by mortberg** [comment]
What is the state of this PR? Has all comments been addressed so that it's ready for another round of reviews/merging?

**Comment by felixwellen** [comment]
I honestly don't remember - I think I had a discussion with @FranziskusWiesnet which might not have taken place here. At a quick glance I only see `{-# OPTIONS --safe #-}` which are all not necessary anymore.

**Comment by FranziskusWiesnet** [comment]
Thanks for checking in! Since this PR has been open for quite some time, I do not remember all details either.
As far as I can see, Felix’s fixes have been merged and the CI currently passes. I can remove the remaining unnecessary {-# OPTIONS --safe #-} pragmas in a small commit. 

Could someone start another round of review? I would be happy to address any remaining issues.

File: Cubical/Algebra/Determinat/Adjugate.agda [hunk 3]
```diff
@@ -0,0 +1,1943 @@
+{-# OPTIONS --safe #-}
```
Comment (mortberg) [inline Cubical/Algebra/Determinat/Adjugate.agda:1]: remove

File: Cubical/Algebra/Determinat/Adjugate.agda [hunk 4]
```diff
@@ -0,0 +1,1943 @@
...
+  -- Definition of the adjugate matrix
+  adjugate : FinMatrix R n n → FinMatrix R n n
+  adjugate M i j = cof M j i
+
+  opaque
+    -- Behavior of the adjugate matrix under transposition
+    adjugateTransp : (M : FinMatrix R n n) → (i j : Fin n) → adjugate (M ᵗ) i j ≡ adjugate M j i
+    adjugateTransp M i j = cofTransp M j i
+
+    -- Properties of WeakenFin
```
Comment (mortberg) [inline Cubical/Algebra/Determinat/Adjugate.agda:111]: Move to theory for Fin

File: Cubical/Algebra/Determinat/Adjugate.agda [hunk 5]
```diff
@@ -0,0 +1,1943 @@
...
+    weakenPredFinLt : (k l : Fin (suc (suc n))) → toℕ k <' toℕ l → k ≤'Fin weakenFin (predFin l)
+    weakenPredFinLt {zero} zero one (s≤s z≤) = z≤
+    weakenPredFinLt {zero} one one (s≤s ())
+    weakenPredFinLt {zero} one (suc (suc ())) (s≤s le)
+    weakenPredFinLt {suc n} zero one (s≤s z≤) = z≤
+    weakenPredFinLt {suc n} zero (suc (suc l)) (s≤s le) = z≤
+    weakenPredFinLt {suc n} (suc k) (suc (suc l)) (s≤s (s≤s le)) = s≤s ( weakenPredFinLt {n} k (suc l) (s≤s le))
+
+    sucPredFin : (k l : Fin (suc (suc n))) → toℕ k <' toℕ l → suc (predFin l) ≡ l
```
Comment (mortberg) [inline Cubical/Algebra/Determinat/Adjugate.agda:120]: move

File: Cubical/Algebra/Determinat/Adjugate.agda [hunk 6]
```diff
@@ -0,0 +1,1943 @@
...
+      ∑ (λ i → M k i · (MF(toℕ l +ℕ toℕ i) · det(minor l i M)) )
+      ≡⟨ adjugatePropRG M l k le  ⟩
+      0r
+      ≡⟨ sym (RingTheory.0RightAnnihilates (CommRing→Ring P') (det M)) ⟩
+      det M · 0r
+      ≡⟨ cong (λ a → det M · a) (sym (deltaPropSym k l le)) ⟩
+      (det M ∘ 𝟙) k l
+      ∎
+
+  strongenFin : {j : Fin (suc n)} → (i : Fin (suc n)) → toℕ i <' toℕ j → Fin n
```
Comment (mortberg) [inline Cubical/Algebra/Determinat/Adjugate.agda:972]: move

Comment (mortberg) [reply Cubical/Algebra/Determinat/Adjugate.agda:972]: with lemmas about it

Comment (mortberg) [reply Cubical/Algebra/Determinat/Adjugate.agda:972]: Also, "strongen" should probably be "strengthen"?

File: Cubical/Algebra/Determinat/Adjugate.agda [hunk 7]
```diff
@@ -0,0 +1,1943 @@
...
+      ∑ (λ i → M k i · (MF(toℕ l +ℕ toℕ i) · det(minor l i M)) )
+      ≡⟨ adjugatePropRL M l k le  ⟩
+      0r
+      ≡⟨ sym (RingTheory.0RightAnnihilates (CommRing→Ring P') (det M)) ⟩
+      det M · 0r
+      ≡⟨ cong (λ a → det M · a) (sym (deltaProp k l le)) ⟩
+      (det M ∘ 𝟙) k l
+      ∎
+
+  FinCompare : {n : ℕ} → (k l : Fin n) →  (k ≡ l) ⊎ ((toℕ k <' toℕ l) ⊎ (toℕ l <' toℕ k))
```
Comment (mortberg) [inline Cubical/Algebra/Determinat/Adjugate.agda:1857]: move

File: Cubical/Algebra/Determinat/Base.agda [hunk 8]
```diff
@@ -0,0 +1,2504 @@
+{-# OPTIONS --safe #-}
```
Comment (mortberg) [inline Cubical/Algebra/Determinat/Base.agda:1]: remove

File: Cubical/Algebra/Determinat/Base.agda (hunk 2 above)
Comment (mortberg) [reply Cubical/Algebra/Determinat/Base.agda:49]: Sounds right. Can you fix?

File: Cubical/Algebra/Determinat/Base.agda [hunk 9]
```diff
@@ -0,0 +1,2504 @@
...
+            )
+            j
+            i ⟩
+         (1r + - ind> (toℕ j) (toℕ i)) ·
+           (MF (toℕ (suc k) +ℕ toℕ (suc i) +ℕ toℕ j) · M (suc k) (suc i) ·
+            M zero (weakenFin j)
+            · det (minor k i (minor zero (weakenFin j) M)))
+         ∎)
+
+  weakenweakenFinLe : {n : ℕ} → (i : Fin (suc n)) → (j : Fin (suc n)) → toℕ i ≤' toℕ j → weakenFin i ≤'Fin weakenFin j
```
Comment (mortberg) [inline Cubical/Algebra/Determinat/Base.agda:341]: move

File: Cubical/Algebra/Determinat/Base.agda [hunk 10]
```diff
@@ -0,0 +1,2504 @@
...
+            (λ i →
+               ind> (toℕ j) (toℕ i) ·
+               (MF (toℕ (suc k) +ℕ toℕ (suc i) +ℕ toℕ j) ·
+                M (suc k) (weakenFin i)
+                · M zero j
+                · det (minor k i (minor zero j M)))))
+       ∎
+
+  opaque
+    weakenFinLe : {n : ℕ} → (i : Fin (suc (suc n))) → (j : Fin (suc n)) → toℕ i ≤' toℕ j → i ≤'Fin weakenFin j
```
Comment (mortberg) [inline Cubical/Algebra/Determinat/Base.agda:733]: move

File: Cubical/Algebra/Determinat/Minor.agda [hunk 11]
```diff
@@ -0,0 +1,193 @@
+{-# OPTIONS --safe #-}
```
Comment (mortberg) [inline Cubical/Algebra/Determinat/Minor.agda:1]: remove

File: Cubical/Algebra/Determinat/Minor.agda [hunk 12]
```diff
@@ -0,0 +1,193 @@
...
+  -- A formula for commuting removeIndex maps
+  removeIndexComm :  {n : ℕ} → (i j : Fin (suc n)) → (k : Fin n) → i ≤'Fin j →
+    removeIndex (suc j) (removeIndex i k) ≡ removeIndex (weakenFin i) (removeIndex j k)
+  removeIndexComm zero j k le = refl
+  removeIndexComm (suc i) (suc j) zero le = refl
+  removeIndexComm (suc i) (suc j) (suc k) (s≤s le) =  cong (λ a → suc a) (removeIndexComm i j k le)
+
+  -- remove the j-th column of a matrix
+
+  remove-column : {A : Type ℓ} {n m : ℕ} (j : Fin (suc m)) (M : FinMatrix A n (suc m)) → FinMatrix A n m
```
Comment (mortberg) [inline Cubical/Algebra/Determinat/Minor.agda:52]: Rename to removeCol

File: Cubical/Algebra/Determinat/Minor.agda [hunk 13]
```diff
@@ -0,0 +1,193 @@
...
+    ≡⟨  refl ⟩
+     M k (removeIndex (suc i) (removeIndex j l))
+    ≡⟨ cong (λ a → M k a) ( removeIndexComm j i l le) ⟩
+    M k (removeIndex (weakenFin j) (removeIndex i l))
+    ≡⟨ refl ⟩
+     remove-column i (remove-column (weakenFin j) M) k l
+    ∎
+
+  -- remove the i-th row of a matrix
+  remove-row : {A : Type ℓ} {n m : ℕ} (i : Fin (suc n)) (M : FinMatrix A (suc n) m) → FinMatrix A n m
```
Comment (mortberg) [inline Cubical/Algebra/Determinat/Minor.agda:69]: Rename to removeRow

File: Cubical/Algebra/Determinat/Minor.agda [hunk 14]
```diff
@@ -0,0 +1,193 @@
...
+    remove-row j (remove-row (suc i) M) k l
+    ≡⟨ refl ⟩
+      M (removeIndex (suc i) (removeIndex j k)) l
+    ≡⟨ cong (λ a → M a l) ( removeIndexComm j i k le) ⟩
+    M (removeIndex (weakenFin j) (removeIndex i k)) l
+    ≡⟨ refl ⟩
+     remove-row i (remove-row (weakenFin j) M) k l
+    ∎
+
+  remove-column-row-comm : {A : Type ℓ} {n m : ℕ}  (i : Fin (suc n)) (j : Fin (suc m)) (M : FinMatrix A (suc n) (suc m)) (k : Fin n) (l : Fin m) →  (remove-row i (remove-column j M)) k l ≡  (remove-column j (remove-row i M)) k l
```
Comment (mortberg) [inline Cubical/Algebra/Determinat/Minor.agda:85]: Long line. There are other examples in this file as well

File: Cubical/Algebra/Determinat/RingSum.agda [hunk 15]
```diff
@@ -0,0 +1,349 @@
+{-# OPTIONS --cubical #-}
```
Comment (mortberg) [inline Cubical/Algebra/Determinat/RingSum.agda:1]: remove

File: Cubical/Algebra/Determinat/RingSum.agda [hunk 16]
```diff
@@ -0,0 +1,349 @@
...
+{-# OPTIONS --safe #-}
```
Comment (mortberg) [inline Cubical/Algebra/Determinat/RingSum.agda:2]: remove

**Review by mortberg — CHANGES_REQUESTED** [review]
Many thanks! Lots of good stuff! I had some suggestions for improvements and then it can be merged

**Comment by FranziskusWiesnet** [comment]
Thank you for the review. I have now addressed the review comments and updated the branch to the current master.
The files I modified as part of the determinant development and review fixes are:

- The four files in Cubical/Algebra/Determinat/
- Cubical/Data/FinData/Properties.agda
- Cubical/Data/FinData/Order.agda

Since I based the revised version on the current upstream master, the PR also contains many unrelated changes that have been added to master since the original submission.

**Comment by mortberg** [comment]
I think this is ready to be merged now, except for one typo: The directory should be `Algebra/Determinant` not `Algebra/Determinat` (note the missing `n`)

**Comment by FranziskusWiesnet** [comment]
Thank you! The typo is fixed.

**Comment by mortberg** [comment]
Perfect! Will merge once the CI is finished
